US06660046B1
0.88 g of 5-chloro-1,3-dimethyl-4-nitro-1H-pyrazole (Aldrich), 1 molar equivalent of triethylamine, 1.1 molar equivalents of 3-imidazol-1-ylpropylamine and 5 ml of N,N-dimethylformamide were introduced into a 25 ml three-necked round-bottomed flask equipped with a magnetic stirrer, a thermometer and a condenser. The reaction medium was maintained at a temperature of about 105° C. for 6 hours. The solvent was evaporated off under vacuum. A black liquid was obtained, which was purified by chromatography on silica gel (ethyl acetate/methanol=4/1). 0.75 g of (2,5-dimethyl-4-nitro-2H-pyrazol-3-yl)(3-imidazol-1-yl-propyl)amine was obtained in the form of white crystals in a yield of 56.7%.

reactant | 5-chloro-1,3-dimethyl-4-nitro-1H-pyrazole | 0.88 g | ClC1=C(C(=NN1C)C)[N+](=O)[O-] | C5H6ClN3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-imidazol-1-ylpropylamine | N1(C=NC=C1)CCCN | C6H11N3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2,5-dimethyl-4-nitro-2H-pyrazol-3-yl)(3-imidazol-1-yl-propyl)amine | 0.75 g, yield of 56.7% | CN1N=C(C(=C1NCCCN1C=NC=C1)[N+](=O)[O-])C | C11H16N6O2
